US06420386B1
Step A: [(5-Chloro-2-formyl-phenylcarbamoyl)methyl]phosphonic acid diethyl ester
Pyridine (3.7 ml, 45.7 mmol) is added to a solution of 2-amino-4-chloro-benzaldehyde (6.18 g, 39.7 mmol) in 170 ml of anhydrous toluene, followed dropwise by a solution of chlorocarbonylmethylphosphonic acid diethyl ester (9.8 g, 45.7 mmol) in 15 ml of anhydrous toluene whilst maintaining the reaction mixture at a temperature of less than 30 ° C. When the addition is complete, the mixture is stirred for 1 hour at room temperature. The reaction mixture is washed several times with water and then with a 1N HCl solution, and then again with water. Finally the mixture is washed with an aqueous saturated NaCl solution. The organic phase is dried over MgSO4, and filtration is carried out, followed by evaporation to obtain the expected crude product in the form of an orange oil. The crude product is used in the following step.

reactant | Pyridine | 45.7 mmol, 3.7 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-4-chloro-benzaldehyde | 39.7 mmol, 6.18 g | NC1=C(C=O)C=CC(=C1)Cl | C7H6ClNO
reactant | chlorocarbonylmethylphosphonic acid diethyl ester | 45.7 mmol, 9.8 g | C(C)OP(OCC)(=O)CC(=O)Cl | C6H12ClO4P
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | [(5-Chloro-2-formyl-phenylcarbamoyl)methyl]phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC(NC1=C(C=CC(=C1)Cl)C=O)=O | C13H17ClNO5P
